US07420066B2
In a 100 mL flask was placed 1.84 g (9.7 mmol, 1 eq) of methyl 4-trifluoromethylnicotinate in 25 mL of 1 M HCl in CH3COOH. To this was then added 1.3 g of NCS (9.7 mmol, 1 eq) and the reaction allowed to stir overnight (18 h). The mixture was then transferred to a 500 mL Erlenmeyer flask and to this was added 300 mL of 2 M HCl in Et2O with stirring. This resulted in a white precipitate which was then filtered to provide 1.2 g (49%) of the desired 2-chloro-1-[4-(trifluoromethyl)-3-pyridinyl]ethanone hydrochloride as a white solid. 1H-NMR (DMSO-d6) δ 9.21 (s, 1H), 9.02 (d, 1H), 7.94 (d, 1H), 5.19 (s, 2H).

reactant | methyl 4-trifluoromethylnicotinate | 9.7 mmol, 1.84 g, 1 eq | FC(C1=CC=NC=C1C(=O)OC)(F)F | C8H6F3NO2
reactant | NCS | 9.7 mmol, 1.3 g, 1 eq | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | HCl | 1 M, 25 mL | Cl | ClH
reactant | HCl | 2 M, 300 mL | Cl | ClH
solvent | CH3COOH | CC(=O)O | C2H4O2
solvent | Et2O | CCOCC | C4H10O
product | 2-chloro-1-[4-(trifluoromethyl)-3-pyridinyl]ethanone hydrochloride | 1.2 g, 49% | Cl.ClCC(=O)C=1C=NC=CC1C(F)(F)F | InChI=1S/C8H5ClF3NO.ClH/c9-3-7(14)5-4-13-2-1-6(5)8(10,11)12;/h1-2,4H,3H2;1H
